US07834051B2
(4S,5S)-4-hydroxy-4,5-dimethylpyrrolidin-2-one
tert-Butyl(2S,3S)-3-hydroxy-2,3-dimethyl-5-oxo-pyrrolidine-1-carboxylate (1.00 g) was dissolved in hydrogen chloride-ethyl acetate solution (10 mL, 4 mol/L), and the mixture was stirred at room temperature for 14 hr. The reaction solution was concentrated under reduced pressure, and recrystallized from isopropanol/n-hexane to give the title compound (309 mg, 55%) as colorless crystals. Furthermore, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate→methanol/ethyl acetate=1/10), and the obtained solid was crystallized from diisopropyl ether to give the title compound (220 mg, 39%) as a white powder.

reactant | tert-Butyl(2S,3S)-3-hydroxy-2,3-dimethyl-5-oxo-pyrrolidine-1-carboxylate | 1.00 g | O[C@@]1([C@@H](N(C(C1)=O)C(=O)OC(C)(C)C)C)C | C11H19NO4
solvent | hydrogen chloride-ethyl acetate | 4 mol/L, 10 mL | C(C)(=O)OCC.Cl
product | (4S,5S)-4-hydroxy-4,5-dimethylpyrrolidin-2-one | 309 mg, 55% | O[C@]1(CC(N[C@H]1C)=O)C | C6H11NO2
